US06936608B2
b) 1-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1H-[1,2,4]triazole
This reaction was carried out as described in Example 37, step e, using 1-(3-bromophenyl)-1H-[1,2,4]triazole (0.7 g, 3.12 mmol), bis(neopentyl glycolato)diboron (0.776 g, 3.44 mmol), potassium acetate (0.919 g, 9.36 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) (127 mg, 5 mol %) in 1,4-dioxane (28 ml) to yield the title compound (0.34 g, 43%): 1H NMR (360 MHz, CDCl3) δ 1.04 (6H, s), 3.80 (4H, s), 7.49 (1H, t, J 7.7 Hz), 7.73-7.78 (1H, m), 7.83 (1H, d, J 7.4 Hz), 8.05 (1H, d, J 1.8 Hz), 8.10 (1H, s), 8.62 (1H, s); MS (ES+) m/z 190.

reactant | 1-(3-bromophenyl)-1H-[1,2,4]triazole | 3.12 mmol, 0.7 g | BrC=1C=C(C=CC1)N1N=CN=C1 | C8H6BrN3
reactant | bis(neopentyl glycolato)diboron | 3.44 mmol, 0.776 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | potassium acetate | 9.36 mmol, 0.919 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 28 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | 127 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 1-[3-(5,5-Dimethyl-[1,3,2]dioxaborinan-2-yl)phenyl]-1H-[1,2,4]triazole | 0.34 g, 43% | CC1(COB(OC1)C=1C=C(C=CC1)N1N=CN=C1)C | C13H16BN3O2
